US05360928
BOC-Phe-F.
BOC-Phe (1 mmole) in dry CH2Cl2 under nitrogen is treated with cyannuric fluoride (8 mmol) and pyridine (1 mmole) to form the above-identified product.

reactant | BOC-Phe | 1 mmole | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | fluoride | 8 mmol | [F-]
reactant | pyridine | 1 mmole | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | BOC-Phe-F | N([C@@H](CC1=CC=CC=C1)C(=O)F)C(=O)OC(C)(C)C | C14H18FNO3
